2124-08-13 06:43:00 Physician Resident Progress Note
TITLE: CCU Progress Note
   Chief Complaint:
   24 Hour Events:
   Head CT: layering high density of left occipital [**Doctor Last Name 758**]
likely tiny
   intraventricular hemorrhage
   CTA/US: negative for PE/DVT
   Echo: right atrial clot
   - Continued heparin gtt for now, curb-sided neuro and neurosurg who
   agreed heparin was ok with this small bleed on CT
   - Swallow eval pending as patient coughing with thin liquids
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications: heparin
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Denies CP/vision changes/ abdominal pain
   c/o sob and right hip pain
   Flowsheet Data as of  [**2124-8-13**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.8
C (96.5
   HR: 107 (95 - 111) bpm
   BP: 120/51(65) {108/51(65) - 140/73(86)} mmHg
   RR: 27 (23 - 37) insp/min
   SpO2: 97% on 6L NC
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 109.5 kg (admission): 107 kg
             Total In:
                                                                  2,453 mL
                                                                    129 mL
   PO:
                                                                    600 mL
             TF:
   IVF:
                                                                  1,853 mL
                                                                    129 mL
   Blood products:
   Total out:
                                                                  1,235 mL
                                                                    365 mL
   Urine:
                                                                  1,135 mL
                                                                    365 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,218 mL
                                                                   -236 mL
   Respiratory support
   O2 Delivery Device: 6L Nasal cannula
   SpO2: 97%
   ABG: ///28/
   Physical Examination
   GENERAL: NAD. Weak/soft voice. Appears Comfortable. alert and oriented
   x 3.
   HEENT: Sclera anicteric., PERRL.
   NECK: Supple with JVP of 13cm.
   CARDIAC: Tachycardic, normal S1, S2. No m/r/g.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. Tachypnic. CTAB
   ABDOMEN: Soft, NTND, hypoactive bowel sounds. No HSM or tenderness.
   EXTREMITIES: No c/c/e. Right groin with femoral line, no hematoma, no
   bruit, no obvious tenderness on palpation.
   SKIN: warm/dry; No stasis dermatitis, ulcers, scars, or xanthomas.
   Skin tears on the back in the sacral area.
   PULSES:  Right: Radial 2+ DP Doppler PT Doppler, [**Name (NI) **]: Radial 2+ DP 2+
   PT 2+
   Labs / Radiology
   444 K/uL
   10.5 g/dL
   151 mg/dL
   1.8 mg/dL
   33 mEq/L
   5.3 mEq/L
   84 mg/dL
   97 mEq/L
   141 mEq/L
   38.3 %
   21.2 K/uL
        [image002.jpg]
                             [**2124-8-12**]  01:10 AM
                             [**2124-8-12**]  01:16 AM
                             [**2124-8-12**]  03:10 AM
                             [**2124-8-12**]  04:06 PM
                             [**2124-8-13**]  04:24 AM
   WBC
   20.2
   21.2
   Hct
   35
   40.2
   38.3
   Plt
   404
   444
   Cr
   1.7
   1.7
   1.5
   TropT
   0.02
   0.02
   Glucose
   221
   176
   202
   Other labs: PT / PTT / INR:17.2 />150/1.5, CK / CKMB /
   Troponin-T:1718/11/0.02, ALT / AST:34/83, Alk Phos / T Bili:102/0.6,
   Differential-Neuts:87.9 %, Lymph:8.0 %, Mono:3.8 %, Eos:0.1 %,
   Albumin:2.3 g/dL, LDH:271 IU/L, Ca++:8.9 mg/dL, Mg++:3.1 mg/dL, PO4:5.9
   mg/dL, TSH/Free T4: 3.8/1.4 BNP 4789
   - BCx/UCx
   - Head CT - layering high density in left occipital [**Doctor Last Name 758**], probably
   representing tiny amount of intraventricular hemorrhage. No definite
   parenchymal or subdural hematoma.  Asymmetry of lateral ventricles with
   enlargement of right lateral ventricle likely chronic.  Extensive
   periventriculr white matter hypodensity [**2-14**] microangiopathic ischemic
   changes.  No evidence of acute large vascular territory infarction or
   shift of midline structures.  Could get MRI w/ diffusion weighted
   imaging
   - Chest CT - neg for PE (unable to assess lower lungs but no big
   embolus)
   - [**Month/Day (2) **] - Mild symmetric left ventricular hypertrophy with normal
   systolic function. Right ventricular dilation, moderate tricuspid
   regurgitation. and moderately elevated pulmonary artery systolic
   hypertension. There is a probable mass in the right atrium. Discussed
   with Dr. [**First Name (STitle) **].
   - Lower ext u/s: No DVT in both lower extremities
   Assessment and Plan
    Mrs. [**Known lastname 5881**] is an 85 yo F with PMH DM, HTN, Obesity, prior CVA
   presenting with episodic dyspnea with dynamic EKG changes now s/p
   cardiac catheterization with clean coronaries however significantly
   elevated PA pressure and questionable recent paroxysmal atrial
   fibrillation...even though CT scan negative for PE as well as
   respiratory acidosis/metabolic alkalosis pattern inconsistent with PE,
   cannot rule out b/c of [**Known lastname **] findings and persistent clinical findings
   (tachypnea, tachycardia and hypoxia). Patient currently stable.
   .
   # Dyspnea: No evidence of large main PA thrombus on right heart cath,
   or PE/DVT on CT/Ultrasound. CT scan not ideal quality, but [**Last Name (un) 270**] 90% and
   spec 95%. Right atrial clot seen on [**Last Name (LF) **] , [**First Name3 (LF) **] suggest several
   sub-segmental clots in lungs that may not have been seen on CT.
   Patient with intermediate pre-test probability based on modified [**Doctor Last Name **]
   criteria.  Score: 4.5
   - Etiology unclear at this point as to why patient has dyspnea
   - Still some concern for PE -> cannot rule out malignancy, or unknown
   PAF, but right atrial clot is an abnormal presentation for clot
   development.
   - Although, cannot rule out primary pulmonary process possible
   including pneumonia may not be ruled out as patient has leukocytosis.
   However, CT scan is not c/w current active pneumonia.
   - Also must consider myocarditis or myopericarditis, as EKG changes may
   be consistent with this diagnosis.
   - Continue heparin gtt given clot in right atrium (OK per Neuro), will
   transition to coumadin after head CT today
   - Repeat CT head to assess for interval changes of micro hemorrhage in
   brain
   - Oxygen as needed
   - Monitor on telemetry
   - Consider UPEP/SPEP/guaiac stools
   - Can consider pulmonary consult if cannot find etiology of her dyspnea
   - [**Month (only) 51**] benefit from PFT
s to further assess lung function
   .
   # Leukocytosis: Patient with significant leukocytosis on admission with
   count of 20K. Hx of recent pneumonia treated with levaquin. Reports
   state this pneumonia was on the right side. CXR in ED with reports of
   possible left sided infiltrate. Pt recieved one dose ceftriaxone at
   rehab facility and one dose levaquin in [**Hospital1 19**] ED.  White count
   continues to be elevated
afebrile
   - Urine cx/ua pending
   - Blood cx pending
   - No antibiotics at this time
   - Will send stool if evidence of diarrhea
   .
   # Hx of CVA: Daughter notes some mild gait changes [**2-14**] old CVA but no
   other lasting deficits. Daughter notes some changes over the past 2
   weeks with weak voice and overall weakness possibly slurred speech, but
   nothing specific.  Per daughter
s report head CT at [**Name (NI) **] hospital on
   [**7-28**] was unremarkable. Neuro exam non focal this AM
   - CT head with microhemorrhages
will repeat scan today to assess for
   interval changes as patient is on heparin gtt
   - Consider formal Neuro consult if scan shows progression
   # Metabolic Alkalosis: ABG [**2124-8-12**] shows a respiratory acidosis, today
   patient quite tachypneic. Metabolic alkalosis likely due to contraction
   alkalosis as patient appears dehydrated and has an increasing
   BUN/creatinine.
   - Will repeat ABG today to further assess acid/base disorder as
   respiratory acidosis is inconsistent with PE
   - IVFs today- Normal saline at 75 cc/hr for 2 liters
   .
   # Elevated CK:  Trending down [**0-0-**]. At this time etiology of
   elevated CK is unknown. CKMB not elevated so is not cardiac in origin.
   Other possible etiologies include Seizure or cerebral infarct,
   Hypothyroidism, Viral Myositis, Inflammatory myositis, Infection,
   medication related.
   - Trend CK
   - TSH normal
   - Infectious work up as below
   - Gentle hydration given ARF and contrast administration
   .
   # CORONARIES:  Minimal Coronary Artery Disease on Cath Report
   - ASA 81mg Daily
   .
   # PUMP: Per Cath Report. Left ventricle with nl contractility; Patient
   with elevated JVD to suggest Right heart failure in the setting of PE,
   but no lower extremity edema
  ECHO shows normal LVEF with normal PCWP.
   -  Will monitor for signs of fluid overload
   - Gentle hydration today as concern for hypovolemia causing dyspnea,
   tachycardia, tachypnea
   .
   # RHYTHM: Some question of Paroxysmal Atrial Fibrillation at outside
   hospital. No atrial fibrillation on admission. Now Sinus Tachycardia
   - Telemetry
   .
   # Acute Renal Failure: Unknown baseline. 1.5 yesterday and 1.8 today on
   admission labs. [**Month (only) 51**] be related to Lasix at rehab facility.  Fractional
   excretion of Urea: 16.18 -> Pre-renal
   - Will start IVFs: 75 cc at NS for [**2115**] ml
   - Trend Creatinine
   - Renally dose meds
   - Hold Lasix
   .
   # Hypertension: Patient normotensive at this time.
   - Monitor blood pressure
   ICU Care
   Nutrition: Regular diet pending speech/swallow
   Glycemic Control: Comments: HISS
   Lines:  Femoral Cordis/Introducer - [**2124-8-12**] 03:27 AM
 placed during
   cath
   20 Gauge - [**2124-8-12**] 03:27 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Bowel regimen with  colace, senna, biscodyl
   Communication:  Comments: Daughter [**Name (NI) **] is HCP
   [**Name (NI) 36**] status: DNR / DNI    Daughter states patient would like to avoid
   any invasive procedures and focus on comfort care
   Disposition: ICU/ Social work consult pending
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks: although the cta was
negative
 for
   pulmonary embolus, the findings of a clot in the RA, a dilated
   hypocontractile RV, and a small (underfilled) hyperdynamic LV are
   almost pathognomonic for PE.  We will continue to treat with heparin
   given the RA mass.  We will check a followup echo tomorrow to make sure
   that anticoagulation is not worsening her small pericardial effusion.
   Above discussed extensively with patient.
   DNR status discussed. DNR.
   Total time spent on patient care: 45 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) **]  on:[**2124-8-13**]
   09:53 ------

2124-08-14 06:46:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 CORDIS/INTRODUCER - STOP [**2124-8-13**] 04:00 PM
   Started on coumadin yesterday (5mg).
   CT Head performed on [**8-13**]
   Pulled femoral line yesterday
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,200 units/hour
   Other ICU medications:
   Heparin Sodium - [**2124-8-14**] 06:04 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-8-14**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.4
C (97.6
   HR: 106 (94 - 107) bpm
   BP: 123/55(69) {98/43(59) - 124/58(70)} mmHg
   RR: 29 (12 - 37) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 108.6 kg (admission): 107 kg
             Total In:
                                                                  1,969 mL
                                                                    970 mL
   PO:
                                                                    180 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,789 mL
                                                                    730 mL
   Blood products:
   Total out:
                                                                  1,345 mL
                                                                    750 mL
   Urine:
                                                                  1,345 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    624 mL
                                                                    222 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula- 4L
   SpO2: 98%
   ABG: ///34/
   Physical Examination
   GENERAL: NAD. Weak/soft voice. Appears Comfortable. alert and oriented
   x 3.
   HEENT: Sclera anicteric., PERRL.
   NECK: Supple with JVP of 13cm.
   CARDIAC: Tachycardic, normal S1, S2. No m/r/g.
   LUNGS: Inspiratory crackles in right mid-lower lobe.  Difficult to
   ausculate left lung given body position and habitus but was clear to
   auscultation in left upper lobe.  No chest wall deformities, scoliosis
   or kyphosis. Resp were unlabored, no accessory muscle use. Tachypnic.
   ABDOMEN: Soft, NTND, hypoactive bowel sounds. No HSM or tenderness.
   EXTREMITIES: No c/c/e. Right groin with femoral line, no hematoma, no
   bruit, no obvious tenderness on palpation.
   SKIN: warm/dry; No stasis dermatitis, ulcers, scars, or xanthomas.
   Skin tears on the back in the sacral area.
   PULSES:  Right: Radial 2+ DP Doppler PT Doppler, [**Name (NI) **]: Radial 2+ DP 2+
   PT 2+
   Labs / Radiology
   CT Head- 1. Tiny amount of high-density material layering in left
   lateral ventricle occipital [**Doctor Last Name 758**] may again represent small amount of
   intraventricular hemorrhage.
   2. No evidence of increase or extension of hemorrhage. No evidence of
   major vasculature territory infarction.
   3. Chronic small vessel ischemic disease.
   4. Age-related involutional change
   408 K/uL
   9.3 g/dL
   120 mg/dL
   1.2 mg/dL
   34 mEq/L
   4.6 mEq/L
   68 mg/dL
   103 mEq/L
   144 mEq/L
   33.5 %
   19.7 K/uL
        [image002.jpg]
                             [**2124-8-12**]  01:10 AM
                             [**2124-8-12**]  01:16 AM
                             [**2124-8-12**]  03:10 AM
                             [**2124-8-12**]  04:06 PM
                             [**2124-8-13**]  04:24 AM
                             [**2124-8-14**]  04:30 AM
   WBC
   20.2
   21.2
   19.7
   Hct
   35
   40.2
   38.3
   33.5
   Plt
   [**Telephone/Fax (3) 9188**]
   Cr
   1.7
   1.7
   1.5
   1.8
   1.2
   TropT
   0.02
   0.02
   Glucose
   221
   176
   202
   151
   120
   Other labs: PT / PTT / INR:16.2/50.7/1.4, CK / CKMB /
   Troponin-T:968/11/0.02, ALT / AST:34/83, Alk Phos / T Bili:102/0.6,
   Differential-Neuts:87.9 %, Lymph:8.0 %, Mono:3.8 %, Eos:0.1 %,
   Albumin:2.3 g/dL, LDH:271 IU/L, Ca++:7.7 mg/dL, Mg++:2.7 mg/dL, PO4:3.5
   mg/dL
   Assessment and Plan
    Mrs. [**Known lastname 5881**] is an 85 yo F with PMH DM, HTN, Obesity, prior CVA
   presenting with episodic dyspnea with dynamic EKG changes now s/p
   cardiac catheterization with clean coronaries however significantly
   elevated PA pressure and questionable recent paroxysmal atrial
   fibrillation...even though CT scan negative for PE as well as
   respiratory acidosis/metabolic alkalosis pattern inconsistent with PE,
   cannot rule out b/c of [**Known lastname **] findings and persistent clinical findings
   (tachypnea, tachycardia and hypoxia). Patient currently stable.
   .
   # Dyspnea: No evidence of large main PA thrombus on right heart cath,
   or PE/DVT on CT/Ultrasound. CT scan not ideal quality, but [**Last Name (un) 270**] 90% and
   spec 95%. Right atrial clot seen on [**Last Name (LF) **] , [**First Name3 (LF) **] suggest several
   sub-segmental clots in lungs that may not have been seen on CT.
   Patient with intermediate pre-test probability based on modified [**Doctor Last Name **]
   criteria.  Score: 4.5
   - Etiology unclear at this point as to why patient has dyspnea
   - Still some concern for PE -> cannot rule out malignancy, or unknown
   PAF, but right atrial clot is an abnormal presentation for clot
   development.
   - Although, cannot rule out primary pulmonary process possible
   including pneumonia may not be ruled out as patient has leukocytosis.
   However, CT scan is not c/w current active pneumonia.
   - Also must consider myocarditis or myopericarditis, as EKG changes may
   be consistent with this diagnosis.
   - Anticoagulated given clot in right atrium (OK per Neuro).  Started on
   coumadin 5mg on [**8-13**].  Continue heparin gtt until INR >2.0.
   - CT head performed on [**8-13**] to assess for interval changes of micro
   hemorrhage in brain
   - Oxygen as needed- currently on 4L oxygenating well
   - Monitor on telemetry
   - Consider UPEP/SPEP/guaiac stools
   - Can consider pulmonary consult if cannot find etiology of her dyspnea
   - [**Month (only) 51**] benefit from PFT
s to further assess lung function
   .
   # Leukocytosis: Patient with significant leukocytosis on admission with
   count of 20K. Hx of recent pneumonia treated with levaquin. Reports
   state this pneumonia was on the right side. CXR in ED with reports of
   possible left sided infiltrate. Pt recieved one dose ceftriaxone at
   rehab facility and one dose levaquin in [**Hospital1 19**] ED.  White count
   continues to be elevated
afebrile.  WBC decreased this AM from 21.2 to
   19.7.
   - Urine cx- no growth (final).
   - UA shows small leuks, 22 WBC with few bacteria
   - Blood cx pending
   - No antibiotics at this time
   - Will send stool if evidence of diarrhea
   .
   # Hx of CVA: Daughter notes some mild gait changes [**2-14**] old CVA but no
   other lasting deficits. Daughter notes some changes over the past 2
   weeks with weak voice and overall weakness possibly slurred speech, but
   nothing specific.  Per daughter
s report head CT at [**Name (NI) **] hospital on
   [**7-28**] was unremarkable. Neuro exam non focal this AM
   - CT head with microhemorrhages
will repeat scan today to assess for
   interval changes as patient is on heparin gtt
   - Consider formal Neuro consult if scan shows progression
   # Metabolic Alkalosis: ABG [**2124-8-12**] shows a respiratory acidosis, today
   patient quite tachypneic. Metabolic alkalosis likely due to contraction
   alkalosis as patient appears dehydrated and has an increasing
   BUN/creatinine.
   - Will repeat ABG today to further assess acid/base disorder as
   respiratory acidosis is inconsistent with PE
   - IVFs today- Normal saline at 10 cc/hr for 2 liters
   .
   # Elevated CK:  Trending down [**0-0-**]. At this time etiology of
   elevated CK is unknown. CKMB not elevated so is not cardiac in origin.
   Other possible etiologies include Seizure or cerebral infarct,
   Hypothyroidism, Viral Myositis, Inflammatory myositis, Infection,
   medication related.
   - Trend CK
   - TSH normal
   - Infectious work up as below
   - Gentle hydration given ARF and contrast administration
   .
   # CORONARIES:  Minimal Coronary Artery Disease on Cath Report
   - ASA 81mg Daily
   .
   # PUMP: Per Cath Report. Left ventricle with nl contractility; Patient
   with elevated JVD to suggest Right heart failure in the setting of PE,
   but no lower extremity edema
  ECHO shows normal LVEF with normal PCWP.
   -  Will monitor for signs of fluid overload
   - Gentle hydration today as concern for hypovolemia causing dyspnea,
   tachycardia, tachypnea
   .
   # RHYTHM: Some question of Paroxysmal Atrial Fibrillation at outside
   hospital. No atrial fibrillation on admission. Now Sinus Tachycardia
   - Telemetry
   .
   # Acute Renal Failure: Unknown baseline. 1.5 yesterday and 1.8 today on
   admission labs. [**Month (only) 51**] be related to Lasix at rehab facility.  Fractional
   excretion of Urea: 16.18 -> Pre-renal
   - Will start IVFs: 75 cc at NS for [**2115**] ml
   - Trend Creatinine
   - Renally dose meds
   - Hold Lasix
   .
   # Hypertension: Patient normotensive at this time.
   - Monitor blood pressure
   ICU Care
   Nutrition: Regular diet pending speech/swallow
   Glycemic Control: Comments: HISS
   Lines:  Femoral Cordis/Introducer - [**2124-8-12**] 03:27 AM
 placed during
   cath
   20 Gauge - [**2124-8-12**] 03:27 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Bowel regimen with  colace, senna, biscodyl
   Communication:  Comments: Daughter [**Name (NI) **] is HCP
   [**Name (NI) 36**] status: DNR / DNI    Daughter states patient would like to avoid
   any invasive procedures and focus on comfort care
   Disposition: ICU/ Social work consult pending
   ------ Protected Section ------
   Attending
s Note
   Reviewed data and examined Pt.
   Agree with Dr.[**Last Name (STitle) 8445**]
s assessment and management plan.
   Has significant social and physical issues that will need to be
   addressed.
   [**Last Name (un) **] [**Doctor Last Name 6658**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 6658**]
   on:[**2124-8-14**] 11:15 ------